US04233305
Using the procedure of Step B of Example 7, 6.57 g of 4-(3-trifluoromethylphenyl)-piperazin-1-yl-ethanol and 9.19 g of methyl 2-(7-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate were reacted to obtain 12.72 g of raw product which was chromatographed over silica gel. Elution with 95-5 methylene chloride-methanol mixture yielded 11.16 g of 2-[4-(3-trifluoromethylphenyl)-piperazin-1-yl]-ethyl 2-(7-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate. The said product was dissolved in 25 ml of hot absolute ethanol and then 5.6 ml of an ethanol solution of 6.6 N hydrochloric acid was added thereto at 50° C. The mixture was stirred and 60 ml of anhydrous ether were added thereto in small amounts. The mixture was stirred overnight at room temperature and after the addition of 0.5 ml of the ethanolic hydrochloric acid solution, the mixture was stirred for one hour and was vacuum filtered. The recovered crystals were washed with a 1-3 anhydrous ethanol-ether mixture and then with ether to obtain 11.7 g of the dihydrochloride of 2-[4-(3-trifluoromethylphenyl)-piperazin-1-yl]-ethyl 2-(7-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate melting at 200° C.

reactant | 4-(3-trifluoromethylphenyl)-piperazin-1-yl-ethanol | 6.57 g | FC(C=1C=C(C=CC1)N1CCN(CC1)C(C)O)(F)F | C13H17F3N2O
reactant | methyl 2-(7-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate | 9.19 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)OC)C=C(C=C1)F)(F)F | C18H12F4N2O2
product | 2-[4-(3-trifluoromethylphenyl)-piperazin-1-yl]-ethyl 2-(7-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate | 11.16 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)OCCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)F)(F)F | C30H25F7N4O2
